US05597826
7-(3-Cyanobenzamido) -1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 3 from 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.213 g, 0.883 mmol) and triethylamine (0.258 mL, 1.94 mmol) and 3-cyanobenzoyl chloride (0.322 g, 1.94 mmol) in acetonitrile (10 mL) with stirring at reflux for 2 hours and then at room temperature overnight. The mixture was concentrated and the residue was taken up in methylene chloride. This organic solution was washed with 0.5N sodium hydroxide, dried over calcium sulfate and concentrated. The product was isolated by silica gel flash chromatography and recrystallization from isopropyl alcohol to yield 0.184 g of (60%) of the title compound: mp 220°-222° C. Analysis calculated for C23H22N4O: C, 74.57; H, 5.99; N, 15.12. Found: C, 74.42; H, 5.78; N, 14.96.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.883 mmol, 0.213 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | triethylamine | 1.94 mmol, 0.258 mL | C(C)N(CC)CC | C6H15N
reactant | 3-cyanobenzoyl chloride | 1.94 mmol, 0.322 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-(3-Cyanobenzamido) -1-(4-methyl-1-piperazinyl)-naphthalene | 60% | C(#N)C=1C=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)C)C=CC1 | C23H22N4O
